US05308607
2-(4-Iodophenyl)nonane
A mixture of 12.50 g (38.08 mmol) of 2-(4-iodophenyl)-2-nonene and 6.42 g (55.2 mmol) of triethylsilane was cooled to 0° C. Trifluoroacetic acid (13.03 g, 114.2 mmol) was added dropwise and the resulting mixture was stirred at room temperature for 22 hrs before it was heated to reflux for 30 min. The mixture was cooled and partitioned between 200 ml hexanes and 100 ml of 10% K2CO3 in water. The hexane layer was washed with brine (50 ml) and dried over Na2SO4. The colorless solution was concentrated in vacuo to 12.31 g of a colorless oil The oil was purified by flash chromatography on 370 g of silica gel with hexane as the eluent. Concentration in vacuo afforded 11.45 g (91%) of product as a mobile colorless oil.

reactant | 2-(4-iodophenyl)-2-nonene | 38.08 mmol, 12.50 g | IC1=CC=C(C=C1)C(C)=CCCCCCC | C15H21I
reactant | triethylsilane | 55.2 mmol, 6.42 g | C(C)[SiH](CC)CC | C6H16Si
reactant | Trifluoroacetic acid | 114.2 mmol, 13.03 g | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(4-Iodophenyl)nonane | 11.45 g, 91% | IC1=CC=C(C=C1)C(C)CCCCCCC | C15H23I
